US08809376B2
{(S)-6-[(R)-4-(4-Chloro-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester and 4-chloro-benzylzinc chloride following a procedure analogous to that described in Step 6 of Intermediate 1; [1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene]-(3-chloropyridyl)-palladium(II) dichloride (Pd-PEPPSI-IPr) is used as catalyst. LC (method 3): tR=1.01 min.

reactant | {(S)-6-[(R)-4-bromo-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)Br)=O | C21H18BrF3O4
reactant | 4-chloro-benzylzinc chloride | [Cl-].ClC1=CC=C(C[Zn+])C=C1
catalyst | [1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene]-(3-chloropyridyl)-palladium(II) dichloride | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(N(C=C1)C1=C(C=CC=C1C(C)C)C(C)C)=[Pd-3](C1=NC=CC=C1Cl)(Cl)Cl
product | {(S)-6-[(R)-4-(4-Chloro-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)CC2=CC=C(C=C2)Cl)=O | C28H24ClF3O4
